US07696223B2
c) {[3-Cyano-2-(4-fluoro-phenyl)-4-hydroxy-7-methyl-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid
Prepared in analogy to that of Example 1(e) from 3-cyano-2-(4-fluoro-phenyl)-4-hydroxy-7-methyl-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 445 (M+H)+.

reactant | 3-cyano-2-(4-fluoro-phenyl)-4-hydroxy-7-methyl-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C)N(C(=C2C#N)C2=CC=C(C=C2)F)C2=CC=CC=C2)O | C24H18FN3O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | {[3-Cyano-2-(4-fluoro-phenyl)-4-hydroxy-7-methyl-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | C(#N)C1=C(N(C2=C(N=C(C(=C21)O)C(=O)NCC(=O)O)C)C2=CC=CC=C2)C2=CC=C(C=C2)F | C24H17FN4O4
